### PR TITLE
[Merged by Bors] - chore(Order/Interval/Set/InitialSeg): clean up file

### PR DESCRIPTION
**Pull request by vihdzp**
We do various small golfs, remove unneeded namespaces, and deprecate some confusing names.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Set/InitialSeg.lean [hunk 1]
```diff
@@ -10,78 +10,69 @@ public import Mathlib.Order.InitialSeg
...
-  toFun := fun ⟨j, hj⟩ ↦ j
+  toFun j := j
   inj' _ _ _ := by aesop
   map_rel_iff' := by aesop
   mem_range_iff_rel' := by aesop
 
 @[simp]
-lemma principalSegIio_toRelEmbedding {j : α} (k : Iio j) :
-    (Set.principalSegIio j).toRelEmbedding k = k.1 := rfl
+lemma principalSegIio_apply (k : Iio j) : (principalSegIio j).toRelEmbedding k = k.1 :=
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/InitialSeg.lean]: Why not just
```suggestion
lemma principalSegIio_apply (k : Iio j) : principalSegIio j k = k.1 :=
```

File: Mathlib/Order/Interval/Set/InitialSeg.lean [hunk 2]
```diff
@@ -10,78 +10,69 @@ public import Mathlib.Order.InitialSeg
...
   inj' _ _ _ := by aesop
   map_rel_iff' := by aesop
   mem_range_iff_rel' := by aesop
 
 @[simp]
-lemma principalSegIioIicOfLE_toRelEmbedding {i j : α} (h : i ≤ j)
-    (k : Iio i) :
-    (Set.principalSegIioIicOfLE h).toRelEmbedding k = ⟨k, k.2.le.trans h⟩ := rfl
+lemma principalSegIioIicOfLE_apply (h : i ≤ j) (k : Iio i) :
+    (principalSegIioIicOfLE h).toRelEmbedding k = ⟨k, k.2.le.trans h⟩ := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/Interval/Set/InitialSeg.lean]:
```suggestion
    principalSegIioIicOfLE h k = ⟨k, k.2.le.trans h⟩ := rfl
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
